US05935952
In 0.71 g of ethyl orthoformate and 0.49 g of acetic anhydride was dissolved 0.66 g of ethyl 4-[2-(benzyloxycarbonyl)isoindolin-5-yl]-2,5-difluoro-3-methoxy-6-nitrobenzoylacetate, and the solution was heated under reflux for 30 minutes. The reaction mixture was concentrated under reduced pressure, and the residue obtained was dissolved in 3.3 ml of ethanol and 2 ml of methylene chloride. To the solution was added 0.08 g of cyclopropylamine, and the resulting mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure, and the residue obtained was dissolved in 10 ml of tetrahydrofuran. To the solution was added 0.05 g of 60% sodium hydride, and the resulting mixture was stirred at room temperature for 30 minutes. To the reaction mixture was added 10 ml of 1N hydrochloric acid, and the crystals precipitated were collected by filtration, to obtain 0.33 g of colorless, crystalline ethyl 7-[2-(benzyloxycarbonyl)isoindolin-5-yl]-1-cyclopropyl-6-fluoro-8-methoxy-5-nitro-1,4-dihydro-4-oxoquinoline-3-carboxylate.

reactant | acetic anhydride | 0.49 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl 4-[2-(benzyloxycarbonyl)isoindolin-5-yl]-2,5-difluoro-3-methoxy-6-nitrobenzoylacetate | 0.66 g | C(C1=CC=CC=C1)OC(=O)N1CC2=CC=C(C=C2C1)C1=C(C(=C(C(=O)CC(=O)OCC)C(=C1F)[N+](=O)[O-])F)OC | C28H24F2N2O8
reactant | cyclopropylamine | 0.08 g | C1(CC1)N | C3H7N
reactant | sodium hydride | 0.05 g | [H-].[Na+]
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | ethyl orthoformate | 0.71 g | C(OCC)([O-])[O-]
solvent | ethanol | 3.3 ml | C(C)O | C2H6O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | ethyl 7-[2-(benzyloxycarbonyl)isoindolin-5-yl]-1-cyclopropyl-6-fluoro-8-methoxy-5-nitro-1,4-dihydro-4-oxoquinoline-3-carboxylate | C(C1=CC=CC=C1)OC(=O)N1CC2=CC=C(C=C2C1)C1=C(C(=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)OCC)=O)[N+](=O)[O-])F | C32H28FN3O8
